*84CNQ040 MCE 3/30/98
*Ref: IR Power Semiconductors Product Digest '94
*MCE 40V 80A 3us pkg:D61-8 1,2,3
.SUBCKT 84CNQ040 1 2 3
D1 1 2 DA
D2 3 2 DA
.MODEL DA D (IS=114N RS=525U N=1.7 BV=40 IBV=0.6
+ CJO=3.29N VJ=0.75 M=0.333 TT=4.32U EG=.69 XTI=2)
.ENDS 84CNQ040


